US08124606B2
Compound 105: 4-((S)-3-methyl-4-(((R)-6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzonitrile:
To a suspension of (R)-3-(hydroxymethyl)-6a,7,9,10-tetrahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-6(5H)-one (100 mg, 0.617 mmol) in propiononitrile (1.2 mL) was added (cyanomethyl)trimethylphosphonium iodide (180 mg, 0.74 mmol) and DIEA (0.323 ml, 1.80 mmol) and finally (S)-4-(3-methylpiperazin-1-yl)benzonitrile hydrochloride (0.147 g, 0.617 mmol). The vial was heated to 90° C. for 16 hours. The crude rxn was cooled to RT, DMSO (1 ml) was added, and purified via HPLC (55-90, basic) to give the product as a tan solid (58 mg, 22% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.62 (s, 1H), 7.69 (d, J=2.0 Hz, 1H), 7.56 (d, J=9.1 Hz, 2H), 6.92-7.11 (m, 3H), 4.87 (dt, J=13.6, 2.7 Hz, 1H), 4.25 (dd, J=10.9, 3.0 Hz, 1H), 3.84 (d, J=13.4 Hz, 1H), 3.66 (d, J=10.6 Hz, 1H), 3.58 (d, J=12.6 Hz, 1H), 2.87-3.12 (m, 3H), 2.64-2.83 (m, 5H), 2.39-2.48 (m, 2H), 2.06-2.19 (m, 1H), 1.14 (d, J=6.1 Hz, 3H). [M+H] calc'd for C23H26N6OS, 434. found, 434.

reactant | (R)-3-(hydroxymethyl)-6a,7,9,10-tetrahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-6(5H)-one | 0.617 mmol, 100 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CCSC3)=O | C11H13N3O2S
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.74 mmol, 180 mg | [I-].C(#N)C[P+](C)(C)C
reactant | DIEA | 1.80 mmol, 0.323 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-4-(3-methylpiperazin-1-yl)benzonitrile hydrochloride | 0.617 mmol, 0.147 g | Cl.C[C@H]1CN(CCN1)C1=CC=C(C#N)C=C1
solvent | propiononitrile | 1.2 mL | C(CC)#N | C3H5N
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | 4-((S)-3-methyl-4-(((R)-6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzonitrile | 58 mg, 22% yield | C[C@H]1CN(CCN1CC1=CC=2NC([C@H]3N(C2N=C1)CCSC3)=O)C3=CC=C(C#N)C=C3 | C23H26N6OS
